US08034812B2
Production of (6-iodoimidazo[1,2-b]pyridazin-2-yl)methanol
To a solution of 3-amino-6-iodopyridazine (2.0 g, 9.0 mmol) in ethanol (40 mL) was added 3-chloro-2-oxopropyl acetate (2.73 g, 18.1 mmol), and the mixture was heated under reflux for 24 hr. After cooling the mixture to room temperature, saturated aqueous sodium hydrogencarbonate solution was added to the mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate/hexane to give the title compound (498 mg, 20%) as a white powder.

reactant | 3-amino-6-iodopyridazine | 9.0 mmol, 2.0 g | NC=1N=NC(=CC1)I | C4H4IN3
reactant | 3-chloro-2-oxopropyl acetate | 18.1 mmol, 2.73 g | C(C)(=O)OCC(CCl)=O | C5H7ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (6-iodoimidazo[1,2-b]pyridazin-2-yl)methanol | 498 mg, 20% | IC=1C=CC=2N(N1)C=C(N2)CO | C7H6IN3O
